US07547782B2
A) 2-Chloro-N-(2,4-difluorophenyl)-4-iodonicotinamide
To a homogeneous mixture of 2-chloro-4-iodonicotinic acid (CB Research & Development, Inc., 0.58 g, 2.0 mmol) and 2,4-difluoroaniline (Aldrich, 0.21 mL, 2.0 mmol) in anhydrous DMF (7 mL) was added PyBroP (Novabiochem, 1.4 g, 3.1 mmol) followed by DIPEA (1.1 mL, 6.6 mmol). The mixture was stirred for 63 hours, and then partitioned between chloroform and 10% LiCl (aq). After the aqueous layer was extracted with chloroform, the combined organic layers were washed twice with 10% LiCl (aq), dried over anhydrous MgSO4, and then concentrated in vacuo. Purification of the residue by flash column chromatography (SiO2, eluting with 1:1 hexane/EtOAc) afforded the desired compound (0.43 g, 53%). MS(ESI+) m/z 395 (M+H)+.

reactant | 2-chloro-4-iodonicotinic acid | 2.0 mmol, 0.58 g | ClC1=C(C(=O)O)C(=CC=N1)I | C6H3ClINO2
reactant | 2,4-difluoroaniline | 2.0 mmol, 0.21 mL | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | PyBroP | 3.1 mmol, 1.4 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 6.6 mmol, 1.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-N-(2,4-difluorophenyl)-4-iodonicotinamide | 0.43 g, 53% | ClC1=C(C(=O)NC2=C(C=C(C=C2)F)F)C(=CC=N1)I | C12H6ClF2IN2O
